US07223776B2
10.a) 8-([2-(6-Methoxy-quinazolin-4-yl)-ethyl]-1,4-dioxaspiro-[4.5]decan-8-ol
Platinum oxide (0.46 g) was added to a solution of 8-(6-methoxy-quinazolin-4-ylethynyl)-1,4-dioxa-spiro[4.5]decan-8-ol (0.96 g, 2.88 mmol) in EtOH (40 ml) and THF (10 ml), and hydrogenation was carried out under a hydrogen atmosphere (1 bar). The reaction mixture was stirred in the presence of activated carbon (5 g) and filtered. The filtrate was concentrated to dryness by rotary evaporation. The residue was purified by column chromatography on silica gel (EtOAc and then EtOAc:MeOH 9/1).

reactant | 8-(6-methoxy-quinazolin-4-ylethynyl)-1,4-dioxa-spiro[4.5]decan-8-ol | 2.88 mmol, 0.96 g | COC=1C=C2C(=NC=NC2=CC1)C#CC1(CCC2(OCCO2)CC1)O | C19H20N2O4
reactant | EtOH | 40 ml | CCO | C2H6O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | Platinum oxide | 0.46 g | [Pt]=O
product | [2-(6-Methoxy-quinazolin-4-yl)-ethyl]-1,4-dioxaspiro-[4.5]decan-8-ol | COC=1C=C2C(=NC=NC2=CC1)CCC1OC2(OC1)CCC(CC2)O | C19H24N2O4
